US08563565B2
(3) Synthesis of (S)-8-fluoro-7-(2-methoxy-4,6-dimethylpyridin-3-yl)-1-(tetrahydrofuran-3-yl)-1H-pyrazolo[4,3-c]quinolin-4(5H)-one
Sodium hydroxide (powder, 74 mg) was added to a solution of 5-(2,5-difluoro-4-(2-methoxy-4,6-dimethylpyridin-3-yl)phenyl)-1-[(S)-tetrahydrofuran-3-yl]-1H-pyrazole-4-carboxamide (199 mg) in DMSO (2 mL), and the reaction mixture was stirred at 75° C. for 1.5 hours. After the reaction mixture was cooled to room temperature, water, acetic acid (0.106 mL) and ethyl acetate were added to the reaction mixture with stirring. After the precipitated solid was filtered, organic layer was washed with water, a saturated aqueous sodium bicarbonate solution and brine, dried over anhydrous magnesium sulfate, and the desiccant was removed by filtration. After the filtrate was concentrated under reduced pressure, the residue was purified by silica gel column chromatography (ethyl acetate/n-heptane, 55% to 90% to 96%), and the resulting crude was solidified by adding n-heptane/MTBE to give the title compound (33 mg).

reactant | Sodium hydroxide | 74 mg | [OH-].[Na+]
reactant | 5-(2,5-difluoro-4-(2-methoxy-4,6-dimethylpyridin-3-yl)phenyl)-1-[(S)-tetrahydrofuran-3-yl]-1H-pyrazole-4-carboxamide | 199 mg | FC1=C(C=C(C(=C1)C=1C(=NC(=CC1C)C)OC)F)C1=C(C=NN1[C@@H]1COCC1)C(=O)N | C22H22F2N4O3
reactant | water | O | H2O
reactant | acetic acid | 0.106 mL | C(C)(=O)O | C2H4O2
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)-8-fluoro-7-(2-methoxy-4,6-dimethylpyridin-3-yl)-1-(tetrahydrofuran-3-yl)-1H-pyrazolo[4,3-c]quinolin-4(5H)-one | 33 mg | FC1=CC=2C3=C(C(NC2C=C1C=1C(=NC(=CC1C)C)OC)=O)C=NN3[C@@H]3COCC3 | C22H21FN4O3
